US04447651
Bromination of 4-chloro-2-methoxytoluene by means of N-bromosuccinimide in boiling carbon tetrachloride in the presence of dibenzoyl peroxide produces 4-chloro-2-methoxybenzyl bromide as a colourless liquid which has a boiling point of 140°-145° C./13 mm Hg. Reaction of this compound with triethyl phosphite in boiling xylene turns it into diethyl 4-chloro-2-methoxybenzylphosphonate; this is a colourless, viscous liquid which has a boiling point of 132° C./0.1 mm Hg.

reactant | 4-chloro-2-methoxytoluene | ClC1=CC(=C(C=C1)C)OC | C8H9ClO
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-chloro-2-methoxybenzyl bromide | ClC1=CC(=C(CBr)C=C1)OC | C8H8BrClO
